US07425551B2
N—[(S)-5-(2-Methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
Using (S)-7-amino-5-(2-methoxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one and 2,2-dimethyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid, the title compound was prepared in the same manner as example 1c (74%). White solid. MS: m/e=528(M+H+).

reactant | (S)-7-amino-5-(2-methoxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2 | C17H18N2O2
reactant | 2,2-dimethyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | CC(C(=O)O)(C(=O)NCC(C(F)(F)F)(F)F)C | C8H10F5NO3
product | N—[(S)-5-(2-Methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2,2-dimethyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | COCCN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)NCC(C(F)(F)F)(F)F)(C)C)=O)C=CC=C3)C=CC=C2 | C25H26F5N3O4
